* c:\fossee\esim\library\subcircuitlibrary\2to4decoderv1\2to4decoderv1.cir

.include andgatev1.sub
.include notgatev1.sub
x1 /vdd /in1 net-_x1-pad3_ notgatev1
x2 /vdd /in2 net-_x2-pad3_ notgatev1
x3 /vdd net-_x1-pad3_ net-_x2-pad3_ /ena /d0 andgatev1
x4 /vdd /in1 net-_x2-pad3_ /ena /d1 andgatev1
x5 /vdd /in2 net-_x1-pad3_ /ena /d2 andgatev1
x6 /vdd /in2 /in1 /ena /d3 andgatev1
* u1  /vdd /in1 /in2 /d0 /d1 /d2 /d3 /ena port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
